US08486939B2
To a solution of 0.159 g (1.67 mmol) of 3-aminopyridazine in THF (3 mL) at 0° C. was added 0.93 mL of NaHMDS (2 M solution in THF), and the mixture was stirred for 15 min. A solution of 0.317 g (0.84 mmol) of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole in THF (6 mL) was added and the resulting mixture was stirred for 1 hr at RT. After neutralization with acetic acid, the mixture was diluted with water and extracted with EtOAc. The organic layer was washed sequentially with water and aq. NH3, dried and concentrated. Chromatography on alumina, eluting first with hexane-EtOAc (8:2) then with CH2Cl2/EtOAc (2:1) to CH2Cl2/EtOAc (1:1) gave a white powder. Recrystallization from ethanol/CH2Cl2 gave 0.065 g (18% yield) of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(3-pyridazinyl)-1,3,5-triazin-2-amine: mp 271-273° C.; 1H NMR (DMSO-d6) δ 11.16 (br s, 1H), 8.98 (dd, J=4.7, 1.4 Hz, 1H), 8.67 (d, J=8.0 Hz, 1H), 8.61 (d, JHF=8.4 Hz, 1H), 8.08 (t, JHF=52.8 Hz, 1H), 7.86 (dd, J=7.7, 0.7 Hz, 1H), 7.73 (dd, J=9.1, 4.7 Hz, 1H), 7.53-7.43 (m, 2H), 3.86 (s, 4H), 3.75 (s, 4H); Anal. Calcd. for C19H17F2N9O: C, 53.65; H, 4.1; N, 29.6. Found: C, 53.7; H, 4.2; N, 29.5%.

reactant | 3-aminopyridazine | 1.67 mmol, 0.159 g | NC=1N=NC=CC1 | C4H5N3
reactant | NaHMDS | 2 M, 0.93 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.84 mmol, 0.317 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(3-pyridazinyl)-1,3,5-triazin-2-amine | 0.065 g, 18% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NC=1N=NC=CC1)C=CC=C2)F | C19H17F2N9O
